data/mechanism_extracts/ACSCatal/10.1021_acscatal.1c05557.json
{"doi": "10.1021_acscatal.1c05557", "journal": "ACSCatal", "is_review": false, "rxn_class_summary": "Electrocatalytic oxidative hydrofunctionalization of alkenes (hydroalkoxylation, hydroacyloxylation, hydroarylation, semipinacol rearrangement, deallylation) via a CoSalen-mediated Co(II/III/IV) HAT cycle.", "mechanism_family": ["electrocatalysis_inner_sphere", "mediator_anodic", "radical_polar_crossover", "paired_electrolysis"], "electrochemical_role": "Anode oxidizes Co(II) to Co(III) (and later alkyl-Co(III) to alkyl-Co(IV)); cathode reduces MeOH to H2 and methoxide, which activates the silane to generate Co(III)-H for HAT to the alkene.", "key_intermediates": [{"name": "Co(II) Salen resting state (19)", "smiles": null, "role": "resting_state"}, {"name": "Co(III) Salen cation (20)", "smiles": null, "role": "transient"}, {"name": "Co(III)-H species (21)", "smiles": null, "role": "reactive"}, {"name": "carbon-centered alkyl radical from HAT (22)", "smiles": null, "role": "reactive"}, {"name": "alkyl-Co(III) complex (23)", "smiles": null, "role": "reactive"}, {"name": "electrophilic alkyl-Co(IV) cation (24)", "smiles": null, "role": "reactive"}, {"name": "methoxide (cathodically generated)", "smiles": "[O-]C", "role": "reactive"}], "electron_flow": "Anodic oxidation of Co(II) gives Co(III), which is converted to Co(III)-H by silane/methoxide; Co-H performs HAT to the alkene to give a C-radical that is trapped by Co(II) to form an alkyl-Co(III); a second anodic oxidation gives an electrophilic alkyl-Co(IV) that is intercepted by a nucleophile (alcohol, carboxylate, arene) near the anode, releasing product and regenerating Co(II).", "rate_determining_step": null, "probe_reagents": [{"name": "CD3OD solvent labeling", "smiles": "[2H]OC([2H])([2H])[2H]", "purpose": "isotope_label", "observation": "Very low D incorporation in product (<2% D) when CD3OD used vs Ph2SiD2 (70-80% D), confirming hydride comes from silane and indicating H/D scrambling via reversible HAT."}, {"name": "aryl cyclopropane radical clock (14)", "smiles": null, "purpose": "radical_clock", "observation": "Ring-opened trapping product (15) observed in 40% yield, supporting a discrete C-radical intermediate from HAT."}, {"name": "Chiral CoSalen (3b, 3d)", "smiles": null, "purpose": "other", "observation": "Catalyst-controlled enantioselectivity (8% ee with 3b; -31% ee with 3d; up to -20% ee with RVC anode) indicates C-Nu bond formation occurs at a Co-bound intermediate (Co(IV)) rather than a free cation."}, {"name": "Electrolyte variation (n-Bu4NBF4 vs LiClO4)", "smiles": null, "purpose": "other", "observation": "More hydrophobic NBu4BF4 gives lower methanol-trapping selectivity (1.9:1) vs LiClO4 (>20:1), consistent with Co(IV) trapping near the electrode within the EDL."}, {"name": "Cyclic voltammetry of 3a", "smiles": null, "purpose": "redox_probe", "observation": "Reversible oxidation at E1/2 = -0.17 V vs Fc+/Fc; reduction wave disappears upon addition of KOMe, indicating methoxide is needed for silane activation/Co-H formation."}], "evidence_types_used": ["H/D_labeling", "radical_clock", "cyclic_voltammetry", "stoichiometric_intermediate", "product_isotope_distribution", "other"], "evidence_strength": "strong", "notes": "Authors favor an ECEC mechanism with a discrete cationic Co(IV)-alkyl (24) trapped by nucleophile near the anode. Catalyst-controlled stereoselectivity and electrolyte (EDL) effects rule out a free carbocation diffusing into bulk. Side pathways include alkene isomerization and hydrogenation, attributed to back-HAT from the alkyl radical to Co(II) or deprotonation of Co(IV) complex 24. 1,1-disubstituted alkenes give predominantly isomerization, ascribed to disfavored Co(IV) formation."}
